US09215875B2
2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[N-(piperidin-1-yl)ethanimidoyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (I-17)
At 80° C., piperidine-1-amine (104 mg) is added to a solution of 1-[4-(4-acetyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (46 mg). The reaction mixture is stirred at this temperature for a further 2 hours. Aqueous ammonium chloride solution (10 ml) is then added to the reaction mixture. After phase separation, the aqueous phase is extracted three times with methyl tert-butyl ether (20 ml). All the organic phases are dried over Na2SO4. The mixture is then filtered and concentrated under reduced pressure. This gives 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[N-(piperidin-1-yl)ethanimidoyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (55 mg, 99%), (log P (pH2.7)=3.69).

reactant | piperidine-1-amine | 104 mg | N1(CCCCC1)N | C5H12N2
reactant | 1-[4-(4-acetyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone | 46 mg | C(C)(=O)C=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C17H19F3N4O2S
solvent | ammonium chloride | 10 ml | [Cl-].[NH4+]
product | 2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[N-(piperidin-1-yl)ethanimidoyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C(C)=NN1CCCCC1)C(F)(F)F | C22H29F3N6OS
